US09278951B2
Synthesis of 1-(2-ethyl-1-naphthyl)-4,5-dichloroimidazole
4,5-Dichloroimidazole (0.137 g, 1 mmol) was dissolved into 1 mL of acetonitrile. Potassium hydroxide (0.061 g, 1.1 mmol) was added and the mixture was allowed to stir for 0.5 h. 1-(2-bromoethyl)-naphthalene (0.142 mL, 0.235 g, 1 mmol) was added and the solution was allowed to reflux for 2.5 h. The solution was filtered hot to remove a white precipitate (presumed to be KBr) and the solution was allowed to cool to room temperature to yield a tan crystalline material (0.085 g, 29% yield). 1H NMR (500 MHz, DMSO-d6) 8.13 (1H, d, Ar), 7.93 (1H, d, Ar), 7.84 (1H, d, Ar), 7.69 (1H, s, NCHN), 7.58 (2H, m, Ar), 7.42 (1H, t, Ar), 7.27 (1H, d, Ar), 4.31 (2H, t, NCH2), 3.49 (2H, t, CH2). 13C{1H} NMR (125 MHz, DMSO-d6) 135.9 (NCN), 133.4 (Ar—Cl), 133.3 (Ar—Cl), 131.3 (Ar—Cl), 128.6 (Ar—Cl), 127.4 (Ar), 126.9 (Ar), 126.3 (Ar), 125.7 (Ar), 125.5 (Ar), 124.0 (Ar), 123.3 (Ar), 111.9 (Ar), 46.2 (CH2), 32.8 (CH3). MS: m/z=290.04 (theor for C15H12Cl2N2=291.0).

reactant | 4,5-Dichloroimidazole | 1 mmol, 0.137 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 1.1 mmol, 0.061 g | [OH-].[K+]
reactant | 1-(2-bromoethyl)-naphthalene | 1 mmol, 0.142 mL, 0.235 g | BrCCC1=CC=CC2=CC=CC=C12 | C12H11Br
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-(2-ethyl-1-naphthyl)-4,5-dichloroimidazole | 0.085 g, 29% yield | C(C)C1=C(C2=CC=CC=C2C=C1)N1C=NC(=C1Cl)Cl | C15H12Cl2N2
